US04065497
Preparation of 1-[1,5-Di-(2-norbornyl)-3-pentyl]-5-(2,3-dihydroxypropyl)-1,5,9-triazanonane
In a like manner and using analogous quantities, but employing N,N-di-(2,3-dihydroxypropyl)trimethylenediamine and 1,1,5-tri-(2,3-dihydroxypropyl)-1,5,9-triazanonane instead of 3,3'-(2,3-dihydroxypropylimino)bispropylamine there are prepared respectively N-[1,5-di-(2-norbornyl)-3-pentyl]-N'-di-(2,3-dihydroxypropyl)trimethylenediamine, and 1-[1,5-di-(2-norbornyl)-3-pentyl]-5-(2,3-dihydroxypropyl)-9,9-di-(2,3-dihydroxypropyl)-1,5,9-triazanonane.

reactant | N,N-di-(2,3-dihydroxypropyl)trimethylenediamine | OC(CN(CCCN)CC(CO)O)CO | C9H22N2O4
reactant | 1,1,5-tri-(2,3-dihydroxypropyl)-1,5,9-triazanonane | OC(CN(CCCN(CCCN)CC(CO)O)CC(CO)O)CO | C15H35N3O6
reactant | 1-[1,5-di-(2-norbornyl)-3-pentyl]-5-(2,3-dihydroxypropyl)-9,9-di-(2,3-dihydroxypropyl)-1,5,9-triazanonane | C12C(CC(CC1)C2)CCC(CCC2C1CCC(C2)C1)NCCCN(CCCN(CC(CO)O)CC(CO)O)CC(CO)O | C34H65N3O6
product | 1-[1,5-Di-(2-norbornyl)-3-pentyl]-5-(2,3-dihydroxypropyl)-1,5,9-triazanonane | C12C(CC(CC1)C2)CCC(CCC2C1CCC(C2)C1)NCCCN(CCCN)CC(CO)O | C28H53N3O2
